US08084649B2
4-Chlorophenylboronic acid (13.2 g, 0.08 mol) and tetrakis(triphenylphosphine) palladium (0) (2.4 g, 0.002 mol) are added to a solution of 5-bromo-2-ethylaniline (14.1 g, 0.07 mol) in 1,2-dimethoxyethane (140 ml). After stirring the reaction mixture for 15 minutes at 20° C., a solution of 20% aqueous sodium carbonate (300 ml) is added to the mixture, and the resulting mixture is refluxed for 24 hours. The reaction mixture is cooled to room temperature, diluted with water and extracted using ethyl acetate. The combined organic extracts are dried over anhydrous sodium sulfate, filtered and the filtrate evaporated in vacuo. The residue is further purified by column chromatography on silica gel, eluting with 5% ethyl acetate in hexane to give 5-(4-chlorophenyl)-2-ethylaniline (14.3 g).

reactant | 4-Chlorophenylboronic acid | 0.08 mol, 13.2 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 5-bromo-2-ethylaniline | 0.07 mol, 14.1 g | BrC=1C=CC(=C(N)C1)CC | C8H10BrN
reactant | sodium carbonate | 300 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 140 ml | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.002 mol, 2.4 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(4-chlorophenyl)-2-ethylaniline | 14.3 g | ClC1=CC=C(C=C1)C=1C=CC(=C(N)C1)CC | C14H14ClN
